US06867333B2
17. 4-(Tert-butyl-dimethyl-silanyloxy)-8-hydroxy-5,5,7,9,13-pentamethyl-16-[1-methyl-2-(2-methyl-thiazol-4-yl)-vinyl]-oxacyclohexadec-13-ene-2,6-dione [═3-O-(tert-butyl-dimethyl-silanyl)-epothilone D]
A solution of 80 mg (0.117 mmol) 6-bromo-3-(tert-butyl-dimethyl-silanyloxy)-4,4-dimethyl-5-oxo-heptanoic acid 4,8-dimethyl-1-[1-methyl-2-(2-methyl-thiazol-4-yl)-vinyl]-9-oxo-non-3-enyl ester in 5.0 ml absolute tetrahydrofurane was added to a suspension of 35 mg (0.285 mmol) CrCl2 and 30 mg (0.224 mmol) LiI in 25 ml dry tetrahydrofurane within 80 min using a syringe pump. After addition was completed, the resulting suspension was stirred for another 2 hrs at ambient temperature. Then, 20 ml semiconcentrated NH4Cl solution was added, and the organic phase was extracted with diethylether (5×15 ml). The organic phases were combined, and washed twice with 15 ml demin. water as well as twice with 15 ml saturated NaCl solution, dried over Na2SO4, filtered, and concentrated in vacuo. This gave 67 mg of a yellow oil.

reactant | 6-bromo-3-(tert-butyl-dimethyl-silanyloxy)-4,4-dimethyl-5-oxo-heptanoic acid 4,8-dimethyl-1-[1-methyl-2-(2-methyl-thiazol-4-yl)-vinyl]-9-oxo-non-3-enyl ester | 0.117 mmol, 80 mg | CC(=CCC(C(=CC=1N=C(SC1)C)C)OC(CC(C(C(C(C)Br)=O)(C)C)O[Si](C)(C)C(C)(C)C)=O)CCCC(C=O)C | C33H54BrNO5SSi
reactant | LiI | 0.224 mmol, 30 mg | [Li+].[I-]
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
solvent | tetrahydrofurane | 5.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 25 ml | O1CCCC1 | C4H8O
product | 4-(Tert-butyl-dimethyl-silanyloxy)-8-hydroxy-5,5,7,9,13-pentamethyl-16-[1-methyl-2-(2-methyl-thiazol-4-yl)-vinyl]-oxacyclohexadec-13-ene-2,6-dione | C(C)(C)(C)[Si](OC1CC(OC(CC=C(CCCC(C(C(C(C1(C)C)=O)C)O)C)C)C(=CC=1N=C(SC1)C)C)=O)(C)C | C33H55NO5SSi
